US06919352B2
A solution of 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (3.1 g, 9.2 mmol) in N,N-dimethylformamide dimethyl acetal (25 mL) was heated to reflux for 6 days. The mixture was cooled to room temperature, ethylacetate was added followed by water. The organic layer was washed with brine. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (ethyl acetate) provided (2E)-1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (3.6 g, 99%) as a tinted oil. 1H NMR (CDCl3): δ 7.73-7.61 (m, 4 H), 7.32 (t, 1 H), 7.14 (t, 2 H), 6.03 (d, 1 H), 5.96 (d, 1 H), 5.05 (d, 1 H), 3.99 (m, 1 H), 5.15-2.42 (broad, 6 H), 2.19-2.08 (m, 2 H), 1.86-1.62 (m, 6 H); 19F NMR (CDCl3) δ −113.75; MS m/z 393 (M+1).

reactant | 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 9.2 mmol, 3.1 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(C)=O)C2=CC=C(C=C2)F | C20H20FN3O
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide dimethyl acetal | 25 mL | COC(N(C)C)OC | C5H13NO2
product | (2E)-1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 3.6 g, 99% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(\C=C\N(C)C)=O)C2=CC=C(C=C2)F | C23H25FN4O
